US05198449
N,α-Bis(4-fluorophenyl)-1-(1-methylethyl)-4-piperidinemethanamine dihydrochloride monohydrate
A mixture of 29.36 g (0.103 mol) of (4-fluorophenyl)[1-(1-methylethyl)-4-piperidinyl]methanone hydrochloride, 28.9 g (0.260 mol) of 4-fluoroaniline and 0.61 g (3.9 mmol) of benzenesulfonic acid in 500 mL of xylene was heated at reflux for 20 h. Water was removed with a Dean-Stark trap. The solvent was removed in vacuo. The residue was reacted with 6.0 g (0.16 mol) of LiAlH4 in 400 mL of THF at room temperature. After 23 h, dilute NaOH and then water were added slowly. The mixture was filtered through Celite®, and CH2Cl2 (400 mL) was added to the filtrate. The mixture was extracted with several portions of water and was dried (Na2SO4). The solvent was removed in vacuo. The residue was dissolved in CH3OH and treated with an excess of ethereal HCl. The hydrochloride salt was collected to give 13.8 g (32.1%) of the title compound as a white solid, mp 225°-228° C. An additional 4.58 g (10.2%) of product was collected from the filtrate.

reactant | (4-fluorophenyl)[1-(1-methylethyl)-4-piperidinyl]methanone hydrochloride | 0.103 mol, 29.36 g | Cl.FC1=CC=C(C=C1)C(=O)C1CCN(CC1)C(C)C
reactant | 4-fluoroaniline | 0.260 mol, 28.9 g | FC1=CC=C(N)C=C1 | C6H6FN
reactant | benzenesulfonic acid | 3.9 mmol, 0.61 g | C1(=CC=CC=C1)S(=O)(=O)O | C6H6O3S
reactant | LiAlH4 | 0.16 mol, 6.0 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NaOH | [OH-].[Na+]
solvent | xylene | 500 mL | C=1(C(=CC=CC1)C)C | C8H10
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | N,α-Bis(4-fluorophenyl)-1-(1-methylethyl)-4-piperidinemethanamine dihydrochloride monohydrate | 13.8 g, 32.1% | O.Cl.Cl.FC1=CC=C(C=C1)NC(C1CCN(CC1)C(C)C)C1=CC=C(C=C1)F | InChI=1S/C21H26F2N2.2ClH.H2O/c1-15(2)25-13-11-17(12-14-25)21(16-3-5-18(22)6-4-16)24-20-9-7-19(23)8-10-20;;;/h3-10,15,17,21,24H,11-14H2,1-2H3;2*1H;1H2
